US08455646B2
Preparation of (S)-1-(2-oxo-2-phenyl-ethyl)-3-(2-phenyl-2-phenylamino-acetoxy)-1-azonia-bicyclo[2.2.2]octane chloride (C222)
To a solution of (S)-quinuclidin-3-yl 2-phenyl-2-(phenylamino)acetate (50.0 mg, 0.15 mmol) in EtOAc (2 mL), is added 2-chloro-1-phenylethanone (23.0 mg, 0.15 mmol) and the reaction is stirred first at RT for 15 hours, then at 70° C. for 7 hours and finally at RT for 3 days. The solvent is removed and the resulting crude is triturated with i-Pr2O/Et2O (3/1) and then with i-Pr2O to achieve the title compound as a beige solid (47.7 mg, 65% yield, chloride salt, mixture of diastereoisomers).

reactant | (S)-quinuclidin-3-yl 2-phenyl-2-(phenylamino)acetate | 0.15 mmol, 50.0 mg | C1(=CC=CC=C1)C(C(=O)O[C@@H]1CN2CCC1CC2)NC2=CC=CC=C2 | C21H24N2O2
reactant | 2-chloro-1-phenylethanone | 0.15 mmol, 23.0 mg | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
product | (S)-1-(2-oxo-2-phenyl-ethyl)-3-(2-phenyl-2-phenylamino-acetoxy)-1-azonia-bicyclo[2.2.2]octane chloride | 47.7 mg, 65% yield | [Cl-].O=C(C[N+]12C[C@H](C(CC1)CC2)OC(C(NC2=CC=CC=C2)C2=CC=CC=C2)=O)C2=CC=CC=C2 | InChI=1S/C29H31N2O3.ClH/c32-26(22-10-4-1-5-11-22)20-31-18-16-23(17-19-31)27(21-31)34-29(33)28(24-12-6-2-7-13-24)30-25-14-8-3-9-15-25;/h1-15,23,27-28,30H,16-21H2;1H/q+1;/p-1/t23?,27-,28?,31?;/m1./s1
